US05840732
ii) Synthesis of 5-octylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 2.03 g (4.9 mmol) of 5-octylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione, 1.25 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was washed with ether to yield 1.71 g (77.2%, white solid) of the desired product.

reactant | 5-octylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 4.9 mmol, 2.03 g | C(CCCCCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C22H29N3O3S
reactant | hydrochloric acid ethyl acetate | 4N, 1.25 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-octylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCCCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C22H29N3O3S.ClH/c1-2-3-4-5-6-7-12-19-21(26)25(22(27)29-19)15-8-9-17-28-18-11-10-14-24-16-13-23-20(18)24;/h10-14,16H,2-9,15,17H2,1H3;1H
